US09079894B2
To a stirred solution of ethyl 3-benzyl-2,4-dioxo-3-aza bicyclo[3.1.0]hexane-6-carboxylate (SYNLETT, 1996, 1097; 5.0 grams, 18.3 mmol) in tetrahydrofuran (74 mL) cooled at 0° C., BH3-DMS (2N solution in tetrahydrofuran 36 mL, 73.2 mmol) was added over a period of 30 minutes. The reaction temperature was gradually raised to reflux for 6 hours. After cooling the reaction mixture to 0° C., it was quenched by adding aqueous ammonium chloride solution and was extracted with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure. The crude product was purified by silica gel column chromatography to obtain ethyl 3-benzyl-3-aza bicyclo[3.1.0]hexane-6-carboxylate (2.8 grams)

reactant | ethyl 3-benzyl-2,4-dioxo-3-aza bicyclo[3.1.0]hexane-6-carboxylate | 18.3 mmol, 5.0 grams | C(C1=CC=CC=C1)N1C(C2C(C2C1=O)C(=O)OCC)=O | C15H15NO4
solvent | tetrahydrofuran | 74 mL | O1CCCC1 | C4H8O
product | ethyl 3-benzyl-3-aza bicyclo[3.1.0]hexane-6-carboxylate | 2.8 grams, Yield: 62.5% | C(C1=CC=CC=C1)N1CC2C(C2C1)C(=O)OCC | C15H19NO2
